2101-06-07 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Remained in afib overnight but HR better controlled after bolus dose
   of diltiazem
   - Bcx growing out GPC in pairs and clusters in 4 of 4 bottles.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-6-6**] 10:20 PM
   Heparin Sodium - [**2101-6-7**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-6-7**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 94 (89 - 136) bpm
   BP: 110/60(72) {77/44(34) - 119/81(89)} mmHg
   RR: 17 (11 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    Mixed Venous O2% Sat: 46 - 46
   Total In:
                                                                  4,001 mL
                                                                    234 mL
   PO:
   TF:
   IVF:
                                                                    601 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    540 mL
   Urine:
                                                                    150 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,601 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT
   LUNGS: Decreased breath sounds bilaterally
   HEART: Tachycardic and irregular
   ABD: Soft. NT
   EXTREM: Edema bilaterally (per her report stable)
   NEURO: A+OX3
   Labs / Radiology
   299 K/uL
   8.4 g/dL
   91 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.1 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   26.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2101-6-6**]  09:25 PM
                             [**2101-6-7**]  03:38 AM
   WBC
   8.7
   Hct
   26.0
   Plt
   299
   Cr
   0.5
   TropT
   0.12
   0.12
   Glucose
   91
   Other labs: PT / PTT / INR:14.8/53.6/1.3, CK / CKMB /
   Troponin-T:27//0.12, ALT / AST:13/40, Alk Phos / T Bili:107/0.3,
   Differential-Neuts:91.4 %, Lymph:5.0 %, Mono:1.9 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 8212**] is a [**Age over 90 **] yo woman with recent surgery for perforated ulcer,
   complicated by perihepatic abscess & c diff colitis.  She now presents
   with fevers, hypotension, and a fib with RVR.
   .
   # Fever: Bcx growing GPC in pairs/clusters; source unclear but may be
   from recent surgery in which case may be concern for VRE. [**Month (only) 51**] also be
   from PNA. Could also have urosepsis as UA with WBCs. Continue
   vanc/flagyl.
   - Consider dapto for empiric treatment of VRE until sensitivities, d/c
   cipro and zosyn
   - F/u sputum culture & DFA for viral antigen
   - Consider TTE for endocarditis
   - F/u final CT chest
   - Consider thoracentesis if TTE negative
   - Consult ID re:enterococcal coverage with dapto/linezolid until
   sensitivities back.
   - C diff unlikely given nl WBC. Cte flagyl IV.
   - f/u culture data
   .
   # Hypotension: :Likely from combination of rapid atrial fibrillation +
   sepsis. See above for treatment of infection.
   - Rate control as below
   - Conservative fluid management as pt urinating & mentating.
   - consider amio/dig for rate control given hypotension with AF
   .
   # Pleural effusions: most likely related to CHF from atril
   fibrillation.
   - attempt to control a fib with rate or rhythm control
   - echo in morning
   - consider diuresis when hemodynamically stable.
   .
   # Demand ischemia: In setting of afib with RVR and sepsis
   - Rate control
   - Aspirin
   - Trend enzymes
   .
   # Atrial fibrillation: Patient hypotense in the setting of rapid a fib.
   - Wean off neosynephrine as tolerated
   - Holding home antihypertensive for now
   - Dilt IV boluses prn for RVR; holding po doses for now in setting of
   hypotension on pressors
   - Consider amiodarone or dig for persistent hypotension if rates
   uncontrolled
   - Consider cardiology consult and electrical cardioversion
   - IV heparin gtt
   .
   # H/o perforated ulcer: stable
   - Continue PPI [**Hospital1 **]
   - Appreciate surgical recs
   .
   # COPD: Continue home regimen; well-compensated.
   .
   # PPX: PPI [**Hospital1 7**], heparin gtt
   .
   # Code: full, confirmed with patient.
   ICU Care
   Nutrition: Low Na, Heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-6-6**] 06:58 PM
   18 Gauge - [**2101-6-6**] 07:00 PM
   Prophylaxis:
   DVT: Hep gtt
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, confirmed with pt
   Disposition: ICU until BP stable off pressors

2101-06-08 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Seen by ID for bcx growing coag positive staph. Thought endocarditis
   was concerning source. Enterococcus UTI may represent spill-over from
   bacteremia. Vegetation not seen on TTE. Also spine infection, empyema.
   Lower on differential would be likely line source, peritonitis. Also
   concern for influenza.
   - Received metoprolol 5mg IV x 1 for afib with RVR with response in HR
   but drop in BP. Continued to require pressors.  A-line planned but
   placement unsuccessful despite multiple attempts.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2101-6-7**] 08:00 AM
   Vancomycin - [**2101-6-7**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-6-8**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2101-6-8**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-6-8**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 97 (91 - 124) bpm
   BP: 109/66(77) {78/32(43) - 125/73(84)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,458 mL
                                                                    326 mL
   PO:
                                                                    190 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,268 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    470 mL
   Urine:
                                                                  1,765 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    693 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT
   LUNGS: Decreased breath sounds bilaterally
   HEART: Tachycardic and irregular
   ABD: Soft. NT
   EXTREM: Edema bilaterally (per her report stable)
   NEURO: A+OX3
   Labs / Radiology
   335 K/uL
   8.2 g/dL
   95 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   135 mEq/L
   24.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2101-6-6**]  09:25 PM
                             [**2101-6-7**]  03:38 AM
                             [**2101-6-7**]  09:10 AM
                             [**2101-6-7**]  05:22 PM
                             [**2101-6-8**]  03:00 AM
   WBC
   8.7
   7.2
   Hct
   26.0
   24.2
   Plt
   299
   335
   Cr
   0.5
   0.5
   TropT
   0.12
   0.12
   0.11
   0.10
   Glucose
   91
   95
   Other labs: PT / PTT / INR:14.4/101.4/1.2, CK / CKMB /
   Troponin-T:25/5/0.10, ALT / AST:13/40, Alk Phos / T Bili:107/0.3,
   Differential-Neuts:91.4 %, Lymph:5.0 %, Mono:1.9 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.2 g/dL, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.1 mg/dL
   Rapid resp viral screen: Ag screen not interpretable; viral cx pending.
   TTE: Normal systolic function (EF 65%). Moderate-severe tricuspid
   regurgitation. Mild aortic stenosis. Moderate mitral regurgitation.
   Moderate pulmonary hypertension.
   Assessment and Plan
   Ms. [**Known lastname 8212**] is a [**Age over 90 **] yo woman with recent surgery for perforated ulcer,
   complicated by perihepatic abscess & c diff colitis.  She now presents
   with fevers, hypotension, and a fib with RVR.
   .
   # Fever: Bcx growing GPC in pairs/clusters; [**Last Name (un) 270**]/spec pending. Urine
   now with >100,000 enterococcus; [**Last Name (un) 270**] pending
 unclear if related
   source as could be spillover from Bcx (?source from recent surgery) or
   separate infection. Concern for endocarditis despite neg TTE. Also
   spine infection given tenderness and weakness and empyema given large
   pleural effusions. Lower on differential would be likely line source,
   peritonitis. Also concern for influenza.
   - Appreciate ID recs
   - On zosyn. Consider switching vanc to dapto for empiric treatment of
   VRE until sensitivities
   - Consider TEE for endocarditis
   - F/u cx including viral resp culture
   - Consider MRI spine, then thoracentesis if TEE negative
   - Pull femoral line when able
   - C diff neg with nl WBC although may be negative as treated early;
   cont flagyl IV for now
   .
   # Hypotension: Likely from combination of rapid atrial fibrillation +
   sepsis; requiring pressors
   - Tx infection as above
   - Currently receiving IV fluids to see if can wean off neo
   - Rate control as below
   - Conservative fluid management as pt urinating & mentating.
   .
   # Atrial fibrillation: Patient hypotense in the setting of rapid a fib.
   - Wean off neosynephrine as tolerated
   - Holding home antihypertensive for now
   - given BP limitation w/ beta blocker and CCB, consider pharm
   conversion with amiodarone or digoxin. Mod [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 111**] suggests
   decreased response to DCCV.
   - IV heparin gtt for now
   .
   # Pleural effusions: [**Month (only) 51**] be [**1-24**] fluid overload in setting of atrial
   fibrillation with mod-severe TR (although nl EF) v. empyema.
   - Rate ctrl
   - Consider thoracentesis if other ID w/u negative as above
   - Consider diuresis when hemodynamically stable
   .
   # Demand ischemia: In setting of afib with RVR and sepsis
   - Rate control
   - Aspirin
   - Trend enzymes
   .
   # H/o perforated ulcer: Stable
   - Continue PPI [**Hospital1 **]
   - Appreciate surgical recs
   .
   # COPD: Continue home regimen; well-compensated.
   ICU Care
   Nutrition: Low sodium, heart healthy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-6-6**] 06:58 PM
   18 Gauge - [**2101-6-6**] 07:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending pressor requirement

2101-06-09 04:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Blood cultures grew MRSA
   - Urine cultures grew VRE->changed vanc to linezolid
   - Went to MRI spine for ?abscess->Wet read: No epidural abscess.
   Multilevel degenerative changes in the lumbar spine most
   pronounced at L4-5 level with severe multifactorial spinal canal
   stenosis.
   - Hct to 24. Guaiac and hemolysis labs not c/w hemolysis
   - O2 weaned to 1L NC during day then back to 3L NC overnight
   - HRs into 120s with BPs 120s/70s. Tried fluid bolus with no change.
   Gave 5mg lopressor with good effect->HRs to 80s-90s and BPs stable.
   - DFA was inadequate sample so re-sent
   - Weaned off pressors in am and remained off all day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2101-6-7**] 08:00 AM
   Vancomycin - [**2101-6-8**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2101-6-8**] 09:00 PM
   Linezolid - [**2101-6-8**] 10:36 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2101-6-8**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-6-9**] 04:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 97 (92 - 131) bpm
   BP: 139/81(95) {83/42(51) - 139/83(95)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  3,093 mL
                                                                    151 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,613 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    340 mL
   Urine:
                                                                  1,420 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,673 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT dry mm
   Lungs: CTAB
   HEART: Irregularly irregular.
   ABD: Soft. Nt/ND
   EXTREM: No edema
   NEURO: A+OX3
   Labs / Radiology
   323 K/uL
   7.8 g/dL
   103 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   11 mg/dL
   103 mEq/L
   134 mEq/L
   23.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2101-6-6**]  09:25 PM
                             [**2101-6-7**]  03:38 AM
                             [**2101-6-7**]  09:10 AM
                             [**2101-6-7**]  05:22 PM
                             [**2101-6-8**]  03:00 AM
                             [**2101-6-9**]  01:30 AM
   WBC
   8.7
   7.2
   5.5
   Hct
   26.0
   24.2
   23.8
   Plt
   299
   335
   323
   Cr
   0.5
   0.5
   0.4
   TropT
   0.12
   0.12
   0.11
   0.10
   Glucose
   91
   95
   103
   Other labs: PT / PTT / INR:14.4/69.8/1.2, CK / CKMB /
   Troponin-T:25/5/0.10, ALT / AST:13/40, Alk Phos / T Bili:107/0.2,
   Differential-Neuts:91.4 %, Lymph:5.0 %, Mono:1.9 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.2 g/dL, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.8 mg/dL
   MRI L-Spine:
   No epidural abscess. Multilevel degenerative changes in the lumbar
   spine most
   pronounced at L4-5 level with severe multifactorial spinal canal
   stenosis.
   Assessment and Plan
   Ms. [**Known lastname 8212**] is a [**Age over 90 **] yo woman with recent surgery for perforated ulcer,
   complicated by perihepatic abscess & c diff colitis.  She now presents
   with fevers, hypotension, and a fib with RVR.
   # MRSA bacteremia and VRE UTI:  Overnight hypothermia and tachycardia,
   but no elevation of WBC
   - Appreciate ID recs.
   - Cte linezolid and expand sensitivities on urine culture to make sure
   sensitive
   - Consider D/C zosyn if no GNs growing from sputum cultures
   - F/u cx including viral resp culture as first sample inadequate
   - Pull femoral line if able today as now off pressors
   - cte flagyl while on abx for C diff history
   - Consider TEE today for w/u of MRSA bacteremia and time course of abx
   as MRI negative for abscess and no other localizing symptoms for source
   # Hypotension: Resolved. Likely from combination of rapid atrial
   fibrillation + sepsis; no longer on pressors
   - Tx infection as above
   - Rate control as below
   - Conservative fluid management as pt urinating & mentating.
   # Atrial fibrillation: Patient hypotensive in the setting of rapid a
   fib.
   - Holding home antihypertensive for now
   - Started amio as was slightly hypotensive initially but overnight
   tolerated IV lopressor so would favor transition to PO amio today
   - Start PO beta blocker for rate control as amio has not converted her
   - IV heparin gtt for now->eventually conversion to coumadin
   # Anemia: Hct has dropped from 30->24 since admission while on heparin
   gtt. Suspect volume overload but also started ASA for demand ischemia
   in ED.
   - guaiac stools
   - Hemolysis labs not consistent with hemolysis (hapto 258)
   - d/c heparin for now
   - Consider CT abd for RP bleed if Hct continues to trend down.
   - [**Hospital1 7**] hct today
    # Pleural effusions: [**Month (only) 51**] be [**1-24**] fluid overload in setting of atrial
   fibrillation with mod-severe TR (although nl EF) v. empyema.
   - Rate ctrl
   - Consider thoracentesis if other ID w/u negative as above
   - Consider diuresis when hemodynamically stable
   - home lasix on hold for hypotension but may be able to start today
   given off pressors and BPs stable but would favor beta blockade for AF
   first and if tolerates then lasix.
   # Demand ischemia: In setting of afib with RVR and sepsis
   - Rate control with amio as above -> transition to PO
   - PO betablocker
   - Aspirin
   # H/o perforated ulcer: Stable
   - Continue PPI [**Hospital1 **]
   - Appreciate surgical recs
   ICU Care
   Nutrition: HH diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-6-6**] 06:58 PM
   18 Gauge - [**2101-6-6**] 07:00 PM
   Prophylaxis:
   DVT: boots, d/c hep gtt
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: with patient and daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU->transfer to floor pending d/c amio gtt